US04914169
One liter capacity four-necked flask equipped with an agitator is charged with 216.4 g of a 35% KOH aqueous solution, and added under agitation with 289.7 g of 52.9% pinane hydroperoxide, while retaining the solution temperature at 20° C. Further 143.1 g of neodecanoic acid chloride is added dropwise over 10 min., while agitating and retaining the solution temperature at 20° C. After agitation of 1 hr., 170 g of cold water is added to the solution, and additional agitation is effected for 5 min. Then, the solution is left still for phase separation. Water phase is removed by separation to leave an oily phase. The oily phase is washed with 300 g of 5% NaOH aqueous solution, subsequently three times with water, and dried over anhydrous magnesium sulfate. Thus, 325.2 g of pinane peroxyneodecanoate solution of a purity of 54.5% is obtained. Yield is 72.8 mol%.

reactant | KOH | [OH-].[K+]
reactant | pinane hydroperoxide | 289.7 g | [O-]O.C12C(CCC(C1(C)C)C2)C
reactant | neodecanoic acid chloride | 143.1 g | C(CCCCCC(C)(C)C)(=O)Cl | C10H19ClO
solvent | water | 170 g | O | H2O
product | pinane peroxyneodecanoate | 325.2 g | C(CCCCCC(C)(C)C)(=O)OO.C12C(CCC(C1(C)C)C2)C | InChI=1S/C10H20O3.C10H18/c1-10(2,3)8-6-4-5-7-9(11)13-12;1-7-4-5-8-6-9(7)10(8,2)3/h12H,4-8H2,1-3H3;7-9H,4-6H2,1-3H3
